US08012986B2
4-(5-Chloro-thiophen-2-yl)-2-(4-iodo-imidazol-1-yl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 2-chloro-4-(5-chloro-thiophen-2-yl)-6-trifluoromethyl-pyrimidine (example A.1) (1.2 g, 4.0 mmol) and commercially available 4-iodo-imidazole (0.85 g, 4.4 mmol) according to the general procedure Ia. Obtained as an off-white solid (1.78 g, 97%). MS (ISP) 457.0 [(M+H)+]; mp 251° C.

reactant | 2-chloro-4-(5-chloro-thiophen-2-yl)-6-trifluoromethyl-pyrimidine | 4.0 mmol, 1.2 g | ClC1=NC(=CC(=N1)C=1SC(=CC1)Cl)C(F)(F)F | C9H3Cl2F3N2S
reactant | 4-iodo-imidazole | 4.4 mmol, 0.85 g | IC=1N=CNC1 | C3H3IN2
product | 4-(5-Chloro-thiophen-2-yl)-2-(4-iodo-imidazol-1-yl)-6-trifluoromethyl-pyrimidine | ClC1=CC=C(S1)C1=NC(=NC(=C1)C(F)(F)F)N1C=NC(=C1)I | C12H5ClF3IN4S
